* Testcase 000097 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VLABEL_NET_0 LABEL_NET_0 0 DC 0.9 AC 1

* Circuit
R1 N0 GND 10k
C1 N1 GND 1p
L1 N0 N1 10n
C2 N1 LABEL_NET_0 1p

.control
set filetype=ascii

op
let power_dc = abs(i(VLABEL_NET_0)) * 1.8
print power_dc

ac dec 100 1 100g

let vmag = vm(N1)
let vdb = db(vmag)

* Gain at key frequencies
meas ac gain_1khz_db FIND vdb AT=1e3
meas ac gain_1mhz_db FIND vdb AT=1e6
meas ac gain_1ghz_db FIND vdb AT=1e9

* Try to find 3dB bandwidth
meas ac max_gain MAX vdb
meas ac bw_3db_hz WHEN vdb='max_gain-3' CROSS=1

print gain_1khz_db gain_1mhz_db gain_1ghz_db bw_3db_hz

quit
.endc

.end
